US09421177B2
(S)—N-(1-cyanoethyl)oleamide (1)
General procedures D was used to deprotect 1.17 mmols of (S)-tert-butyl 1-cyanoethylcarbamate to the corresponding amine. General procedure F was then use to couple to amine to 1.521 mmols of oleoyl chloride. After standard purification techniques, 0.62 mmols (53%) of the title product was recovered. 1H NMR (500 MHz, CDCl3) δ 6.08 (s, 1H), 5.40-5.28 (m, 2H), 5.00-4.90 (m, 1H), 4.12 (q, J=7.2, 0H), 2.20 (dd, J=6.6, 8.5, 2H), 2.00 (dd, J=6.3, 12.0, 4H), 1.68-1.58 (m, 2H), 1.54 (d, J=7.2, 3H), 1.38-1.20 (m, 24H), 0.87 (t, J=6.9, 3H). 13C NMR (126 MHz, CDCl3) δ 172.49, 130.02, 129.66, 119.35, 36.11, 35.63, 31.88, 29.74, 29.68, 29.50, 29.31, 29.20, 29.14, 29.08, 27.20, 27.14, 25.30, 22.67, 19.43, 14.11.

reactant | (S)-tert-butyl 1-cyanoethylcarbamate | 1.17 mmols | C(#N)[C@H](C)NC(OC(C)(C)C)=O | C8H14N2O2
reactant | oleoyl chloride | 1.521 mmols | C(CCCCCCC\C=C/CCCCCCCC)(=O)Cl | C18H33ClO
product | (S)—N-(1-cyanoethyl)oleamide | 0.62 mmols, 53% | C(#N)[C@H](C)NC(CCCCCCC\C=C/CCCCCCCC)=O | C21H38N2O
